US05945440
A solution of 1 g (2.5 mmol) 6,7,12,13-tetrahydro-3,9-dimethoxy-6-methyl-5,7-dioxo-5H-indolo[2,3-a]-pyrrolo[3,4-c]carbazole in 50 ml dry dimethylformamide is added dropwise at 20° C. to a suspension of 91 mg (3.0 mmol) sodium hydride (80% in paraffin oil) in 5 ml dimethylformamide under an atmosphere of argon. After stirring for 1 hour at 20° C., 0.2 ml (3.2 mmol) methyl iodide are added thereto and the reaction mixture is stirred for 16 hours at 20° C. It is then evaporated in a vacuum and the residue is partitioned between ethyl acetate and water. The ethyl acetate phase is separated off, dried over anhydrous sodium sulphate, filtered and evaporated. The residue is stirred with 30 ml diisopropyl ether/ethyl acetate (2:1 v/v) and the undissolved product is filtered off. 6,7,12,13-Tetrahydro-3,9-dimethoxy-6,12-dimethyl-5,7-dioxo-5H-indolo[2,3-a]-pyrrolo[3,4-c]carbazole is obtained in the form of a pale brown amorphous powder.

reactant | 6,7,12,13-tetrahydro-3,9-dimethoxy-6-methyl-5,7-dioxo-5H-indolo[2,3-a]-pyrrolo[3,4-c]carbazole | 2.5 mmol, 1 g | COC1=CC2=C(C=C1)NC1=C2C2=C(C=3C4=CC(=CC=C4NC13)OC)C(N(C2=O)C)=O | C23H17N3O4
reactant | sodium hydride | 3.0 mmol, 91 mg | [H-].[Na+]
reactant | methyl iodide | 3.2 mmol, 0.2 ml | CI | CH3I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6,7,12,13-Tetrahydro-3,9-dimethoxy-6,12-dimethyl-5,7-dioxo-5H-indolo[2,3-a]-pyrrolo[3,4-c]carbazole | COC1=CC2=C(C=C1)NC1=C2C2=C(C=3C4=CC(=CC=C4N(C13)C)OC)C(N(C2=O)C)=O | C24H19N3O4
